US04305937
A mixture of 2-methyl-7-[2-(2,2,2-trifluoroethoxyimino)-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (0.8 g), concentrated hydrochloric acid (0.51 ml) and methanol (16 ml) was stirred for 2 hours at ambient temperature, and then evaporated. Thus obtained pale yellow residue was pulverized in diethyl ether, collected by filtration and then dried to give 2-methyl-7-[2-(2,2,2-trifluoroethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer) (0.8 g).

reactant | 2-methyl-7-[2-(2,2,2-trifluoroethoxyimino)-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 0.8 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)NC=O)=NOCC(F)(F)F)=O)=O | C16H14F3N5O6S2
reactant | hydrochloric acid | 0.51 ml | Cl | ClH
solvent | methanol | 16 ml | CO | CH4O
product | 2-methyl-7-[2-(2,2,2-trifluoroethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride | 0.8 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOCC(F)(F)F)=O)=O | InChI=1S/C15H14F3N5O5S2.ClH/c1-5-2-7(13(26)27)23-11(25)9(12(23)30-5)21-10(24)8(6-3-29-14(19)20-6)22-28-4-15(16,17)18;/h2-3,5,9,12H,4H2,1H3,(H2,19,20)(H,21,24)(H,26,27);1H/t5?,9?,12-;/m1./s1
